US09085607B2
Compound 31 (1 equivalent) was dissolved in dichloromethane, cooled to 5° C. and trifluoroacetic acid (2-3 w/v) was added and stirred at room temperature for 4h. The reaction mixture was concentrated and the residue dissolved in dimethylfomamide and cooled to 5° C. before addition of diisopropylethyl amine (10 equivalents). TBTU (1.8 equivalents) was added followed by 3,3-difluoropiperidine hydrochloride (1.2 equivalents). The reaction was stirred until completion and added to 1M citric acid and solid collected by filtration. The solid was crystallized from ethylacetate/heptane to give ACH-0142684 (purity >98%). ACH-0142684 was suspended in methanol and aqueous sodium hydroxide (1.05 equivalents) was added at about 5° C. to give a clear solution. The reaction mixture was concentrated to dryness and the residue was stirred with IPA to give crystalline ACH-0142684.Na (Form G). The crystalline ACH-0142684.Na was dissolved in a mixture of methanol/ethyl acetate and the solution was added to pentane. The solid was collected by filtration and dried to give ACH-0142684.Na in the amorphous form (purity >98%).

reactant | ACH-0142684 | CC1=C(C=CC2=C1N=C(C=C2O[C@@H]3C[C@H]4C(=O)N[C@@]5(C[C@H]5/C=C\CCCCC[C@@H](C(=O)N4C3)CC(=O)N6CCCC(C6)(F)F)C(=O)NS(=O)(=O)C7CC7)C8=NC(=CS8)C(C)C)OC | C45H56F2N6O8S2
reactant | sodium hydroxide | 1.05 equivalents | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | ACH-0142684.Na | CC1=C(C=CC2=C1N=C(C=C2O[C@@H]3C[C@H]4C(=O)N[C@@]5(C[C@H]5/C=C\CCCCC[C@@H](C(=O)N4C3)CC(=O)N6CCCC(C6)(F)F)C(=O)[N-]S(=O)(=O)C7CC7)C8=NC(=CS8)C(C)C)OC.[Na+] | InChI=1S/C45H56F2N6O8S2.Na/c1-26(2)34-24-62-41(49-34)33-21-37(32-15-16-36(60-4)27(3)39(32)48-33)61-30-20-35-40(55)50-45(43(57)51-63(58,59)31-13-14-31)22-29(45)12-9-7-5-6-8-11-28(42(56)53(35)23-30)19-38(54)52-18-10-17-44(46,47)25-52;/h9,12,15-16,21,24,26,28-31,35H,5-8,10-11,13-14,17-20,22-23,25H2,1-4H3,(H2,50,51,55,57);/q;+1/p-1/b12-9-;/t28-,29-,30-,35+,45-;/m1./s1
